US05663200
51d) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,3-dimethyl-4-methoxyphenyl)-methyl]hexanoic acid
A solution of 1.001 g (2.2 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2,3-dimethyl-4-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 35.8 ml of dimethoxyethane and 18 ml of water is treated, at RT, with 8.8 ml of a 1M solution of lithium hydroxide in water, and this reaction mixture is stirred for 2.5 h. It is then transferred to a separating funnel and diluted with 108.5 ml of sat. ammonium chloride solution and 9 ml of a 10% citric acid solution (both being cold); the whole is then extracted with ethyl acetate and a little THF. The title compound, which is subjected to further processing without being purified, is obtained after washing the organic phase with (cold) saline and drying it over sodium sulfate. TLC Rf (hexane:ethyl acetate 1:1)=at the start. FAB-MS (M+H)+ =472; IR(KBr) inter alia: 1724, 1666, 1527 and 1169 cm-1. 1H-NMR(CD3OD) inter alia: 7.31-7.11 (m, 5H); 6.93 and 6.68 (each d, each 1H); 3.76 (s, 3H); 3.23 and 2.59 (each d×d, each 1H); 2.21 and 2.12 (each s, each 3H); 1.27 (s, 9H).

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2,3-dimethyl-4-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 2.2 mmol, 1.001 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=C(C(=C(C=C1)OC)C)C | C27H35NO5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | dimethoxyethane | 35.8 ml | C(OC)COC | C4H10O2
solvent | water | 18 ml | O | H2O
solvent | ammonium chloride | 108.5 ml | [Cl-].[NH4+]
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,3-dimethyl-4-methoxyphenyl)-methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C(=C(C=C1)OC)C)C)O)CC1=CC=CC=C1 | C27H37NO6
